US06468995B1
To a solution of diphenylmethyl 7β-formamido-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate (3.99 g) in a mixture of methanol (20 ml) and THF (10 ml) was added concentrated hydrochloric acid (2.75 ml) at the room temperature. After stirring at the same temperature for 4 hours, the mixture was poured into a mixture of ice water and ethyl acetate. The mixture was adjusted to pH 4 with aqueous sodium bicarbonate solution. The organic layer was separated washed with water and brine, dried over magnesium sulfate, and evaporated to give diphenylmethyl 7β-amino-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate (3.24 g).

reactant | diphenylmethyl 7β-formamido-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate | 3.99 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SC2=CN=NS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H18N4O4S3
reactant | hydrochloric acid | 2.75 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | diphenylmethyl 7β-amino-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate | 3.24 g | N[C@H]1[C@@H]2N(C(=C(CS2)SC2=CN=NS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H18N4O3S3
